US04992494
Glycine zinc salt was prepared by the following procedure. Glycine (300 g; 4 moles) and 162.8 g (2 moles) of zinc oxide were put in a portable universal mixer and mixed for about 5 minutes. Then 162.8 g (34 moles) of water was added, and the mixing was continued for about 1 hour. Then, the mixture was dried at 110° C. to obtain glycine zinc salt as crystals. The crystals were mechanically pulverized and observed under a scanning electron microscope. When the largest particle among those particles which appeared in the visual field has a particle diameter of 10 micrometer, it was determined that the crystals had been finely pulverized to an average particle diameter of not more than 10 micrometers. The above pulverization to an average particle diameter of not more than 10 micrometers was effected by using a jet pulverizer, and the pulverization was repeated.

reactant | Glycine | 4 moles, 300 g | NCC(=O)O | C2H5NO2
reactant | zinc oxide | 2 moles, 162.8 g | [O-2].[Zn+2]
reactant | water | 34 moles, 162.8 g | O | H2O
product | glycine zinc salt | [Zn+2].NCC(=O)[O-].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Zn/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
